US09193692B2
B. 4-Methyl-1-(tetrahydro-2H-pyran-2-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole
6-Bromo-4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d]imidazole (1.320 g, 4.47 mmol), bis(pinacolato)diboron (1.192 g, 4.70 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (183 mg, 0.22 mmol), potassium acetate (1.317 g, 13.4 mmol) and dimethyl sulfoxide (9 mL) were combined in a round bottom flask and stirred. The atmosphere in the flask was removed under vacuum and replaced with nitrogen three times. The resulting mixture was heated at 90° C. under nitrogen for 1.5 h. The resulting mixture was diluted with ethyl acetate and filtered through Celite. The filter cake was washed thoroughly with ethyl acetate. The filtrate was washed twice with water, once with brine, dried over magnesium sulfate, filtered and concentrated on a under reduced pressure. Flash chromatography (50-100% ethyl acetate in hexanes) gave the desired product at ˜90% purity (1.31 g, 3.83 mmol, 77% yield) as a yellow tan foam-solid. MS (ESI) m/z 343.2 [M+1]+.

reactant | 6-Bromo-4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d]imidazole | 4.47 mmol, 1.320 g | BrC=1C=C(C2=C(N(C=N2)C2OCCCC2)C1)C | C13H15BrN2O
reactant | bis(pinacolato)diboron | 4.70 mmol, 1.192 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.22 mmol, 183 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 13.4 mmol, 1.317 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethyl sulfoxide | 9 mL | CS(=O)C | C2H6OS
product | 4-Methyl-1-(tetrahydro-2H-pyran-2-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole | 77% yield | CC1=CC(=CC=2N(C=NC21)C2OCCCC2)B2OC(C(O2)(C)C)(C)C | C19H27BN2O3
